* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout gnd)
* Instance params: iload (OP current), slew_en (0=linear PSS/HB core),
*   vdd    = supply DC operating point [V] (default 1.05 = characterized nominal);
*            sets the PSRR DC reference AND shifts Vout DC along the characterized
*            dc_linereg curve (clamped to its measured span [0.9,1.3]V)
*   voutdc = direct Vout DC override [V] (0 = use the characterized DC; >0 pins
*            Vout(iload) to this value, small-signal blocks unchanged)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout gnd iload=121u slew_en=0 vdd=1.05 voutdc=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.021599e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((9.662418e-02)*u*u + (1.038553e+00)*u + (4.291918e+00)),1.017590e+01),7.916679e+01)}
.param L_a = {min(max(exp((8.345786e-02)*u*u + (8.433874e-01)*u + (-1.117602e+01)),3.977198e-06),2.682744e-05)}
.param R_pl = {min(max(exp((-6.487859e-13)*u*u + (-1.267674e-11)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((3.621263e-04)*u*u + (8.120618e-03)*u + (4.597092e-02),4.857488e-04),3.544376e-03)}
.param G1 = {min(max((-2.035009e-04)*u*u + (-4.859796e-03)*u + (-2.922750e-02),-2.931450e-03),-4.567034e-04)}
.param w1 = {min(max(exp((1.406161e-02)*u*u + (2.184284e-01)*u + (1.566558e+01)),2.720302e+06),3.120116e+06)}
.param G2 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w2 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param G3 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w3 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((4.717895e-16)*u*u + (1.054077e-14)*u + (1.219951e+01)),1.977032e+05),1.996852e+05)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-4.847593e+00)*u*u + (-9.624838e+01)*u + (-4.823058e+02)),2.526063e-08),2.224412e-04)}
.param gn1 = {min(max(exp((-9.705524e-02)*u*u + (-1.047442e+00)*u + (-1.035899e+00)),3.430708e-01),2.664653e+00)}
.param gn2 = {min(max(exp((-9.924247e-02)*u*u + (-1.091521e+00)*u + (-2.649224e+00)),8.524087e-02),6.582822e-01)}
.param gn3 = {min(max(exp((-8.986480e-02)*u*u + (-9.024238e-01)*u + (-2.985976e+00)),2.358382e-02),1.867185e-01)}
.param gn4 = {min(max(exp((-1.161792e-01)*u*u + (-1.403370e+00)*u + (-6.005247e+00)),1.195134e-02),9.510646e-02)}
.param gn5 = {min(max(exp((-3.402603e+00)*u*u + (-6.747836e+01)*u + (-3.373141e+02)),8.132849e-06),4.114705e-03)}
.param gn6 = {min(max(exp((-9.863406e-01)*u*u + (-1.913652e+01)*u + (-1.106081e+02)),2.658757e-09),1.196720e-08)}
.param vreg = {min(max((-1.960624e-05)*u*u + (-1.982912e-03)*u + (8.858696e-01),9.009470e-01),9.050494e-01)}
* ---- R3-L1: settable supply / output DC (defaults reproduce the characterized DC) ----
.param vddc = {min(max(vdd,9.000000e-01),1.300000e+00)}    $ vdd clamped to the dc_linereg span
.param lrsh = {(-5.988002e+00)*vddc*vddc*vddc*vddc + (2.716359e+01)*vddc*vddc*vddc + (-4.605177e+01)*vddc*vddc + (3.458254e+01)*vddc + (-8.805788e+00) - (9.006032e-01)}    $ DC line-reg shift vs characterized nominal
.param vregeff = {vreg + lrsh + ((voutdc > 0) ? (voutdc - (vreg + lrsh - R_a*ic)) : 0)}
.param COUT=9.966856e-10 ESR=5.000011e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant per instance; vregeff adds the
*      R3-L1 vdd line-reg shift / voutdc override). AC vin->vout coupling is handled
*      ENTIRELY by the PSRR path below (small-signal-consistent: its DC limit
*      g_lf*R_a = the measured PSRR LF). A broadband line-reg term here would
*      create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg gnd V = {vregeff}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vregeff-VREG121),-5.548258e-03,1.000000e-06,-1.966418e-03,1.300000e-05,-9.317321e-04,2.500000e-05,-2.782371e-04,3.700000e-05,2.097789e-04,4.900000e-05,6.049419e-04,6.100000e-05,9.405999e-04,7.300000e-05,1.234845e-03,8.500000e-05,1.498603e-03,9.700000e-05,1.738984e-03,1.090000e-04,1.960879e-03,1.210000e-04,2.167801e-03,1.330000e-04,2.362358e-03,1.450000e-04,2.546545e-03,1.570000e-04,2.721921e-03,1.690000e-04,2.889730e-03,1.810000e-04,3.050980e-03,1.930000e-04,3.206502e-03,2.050000e-04,3.356987e-03,2.170000e-04,3.503018e-03,2.290000e-04,3.645093e-03,2.410000e-04,3.783638e-03,2.530000e-04,3.919022e-03,2.650000e-04,4.051567e-03,2.770000e-04,4.181556e-03,2.890000e-04,4.309237e-03,3.010000e-04,4.434833e-03,3.130000e-04,4.558540e-03,3.250000e-04,4.680534e-03,3.370000e-04,4.800975e-03,3.490000e-04,4.920004e-03,3.610000e-04,5.037752e-03,3.730000e-04,5.154336e-03,3.850000e-04,5.269862e-03,3.970000e-04,5.384427e-03,4.090000e-04,5.498121e-03,4.210000e-04,5.611026e-03,4.330000e-04,5.723214e-03,4.450000e-04,5.834757e-03,4.570000e-04,5.945716e-03,4.690000e-04,6.056151e-03,4.810000e-04,6.166114e-03,4.930000e-04,6.239791e-03,5.010000e-04,6.421638e-03,5.210000e-04,6.602614e-03,5.410000e-04,6.782893e-03,5.610000e-04,6.962631e-03,5.810000e-04,7.141967e-03,6.010000e-04,7.321025e-03,6.210000e-04,7.499917e-03,6.410000e-04,7.678744e-03,6.610000e-04,7.857596e-03,6.810000e-04,8.036557e-03,7.010000e-04,8.215703e-03,7.210000e-04,8.395102e-03,7.410000e-04,8.574818e-03,7.610000e-04,8.754911e-03,7.810000e-04,8.935433e-03,8.010000e-04,9.116437e-03,8.210000e-04,9.297970e-03,8.410000e-04,9.480078e-03,8.610000e-04,9.662804e-03,8.810000e-04,9.846188e-03,9.010000e-04,1.003027e-02,9.210000e-04,1.021509e-02,9.410000e-04,1.040069e-02,9.610000e-04,1.058710e-02,9.810000e-04,1.077436e-02,1.001000e-03,1.096251e-02,1.021000e-03,1.115158e-02,1.041000e-03,1.134163e-02,1.061000e-03,1.153268e-02,1.081000e-03,1.172478e-02,1.101000e-03,1.191798e-02,1.121000e-03,1.211231e-02,1.141000e-03,1.230784e-02,1.161000e-03,1.250460e-02,1.181000e-03,1.270266e-02,1.201000e-03,1.290208e-02,1.221000e-03,1.310292e-02,1.241000e-03,1.330525e-02,1.261000e-03,1.350914e-02,1.281000e-03,1.371468e-02,1.301000e-03,1.392196e-02,1.321000e-03,1.413108e-02,1.341000e-03,1.434215e-02,1.361000e-03,1.455529e-02,1.381000e-03,1.477064e-02,1.401000e-03,1.498834e-02,1.421000e-03,1.520857e-02,1.441000e-03,1.543151e-02,1.461000e-03,1.565738e-02,1.481000e-03,1.588642e-02,1.501000e-03,1.611890e-02,1.521000e-03,1.635514e-02,1.541000e-03,1.659549e-02,1.561000e-03,1.684037e-02,1.581000e-03,1.709025e-02,1.601000e-03,1.734567e-02,1.621000e-03,1.760728e-02,1.641000e-03,1.787579e-02,1.661000e-03,1.815209e-02,1.681000e-03,1.843717e-02,1.701000e-03,1.873221e-02,1.721000e-03,1.903858e-02,1.741000e-03,1.935789e-02,1.761000e-03,1.969201e-02,1.781000e-03,2.004309e-02,1.801000e-03,2.041363e-02,1.821000e-03,2.080644e-02,1.841000e-03,2.122466e-02,1.861000e-03,2.167175e-02,1.881000e-03,2.215135e-02,1.901000e-03,2.266722e-02,1.921000e-03,2.322303e-02,1.941000e-03,2.382214e-02,1.961000e-03,2.446742e-02,1.981000e-03,2.516099e-02,2.001000e-03,2.590411e-02,2.021000e-03,2.669709e-02,2.041000e-03,2.753937e-02,2.061000e-03,2.842957e-02,2.081000e-03,2.936570e-02,2.101000e-03,3.034533e-02,2.121000e-03,3.136576e-02,2.141000e-03,3.242418e-02,2.161000e-03,3.351778e-02,2.181000e-03,3.464384e-02,2.201000e-03,3.579977e-02,2.221000e-03,3.698317e-02,2.241000e-03,3.819182e-02,2.261000e-03,3.942368e-02,2.281000e-03,4.067692e-02,2.301000e-03,4.194987e-02,2.321000e-03,4.324102e-02,2.341000e-03,4.454903e-02,2.361000e-03,4.587267e-02,2.381000e-03,4.721083e-02,2.401000e-03,4.856254e-02,2.421000e-03,4.992690e-02,2.441000e-03,5.130310e-02,2.461000e-03,5.269041e-02,2.481000e-03,5.408817e-02,2.501000e-03,5.549579e-02,2.521000e-03,5.691272e-02,2.541000e-03,5.833847e-02,2.561000e-03,5.977258e-02,2.581000e-03,6.121464e-02,2.601000e-03,6.266428e-02,2.621000e-03,6.412114e-02,2.641000e-03,6.558491e-02,2.661000e-03,6.705531e-02,2.681000e-03,6.853204e-02,2.701000e-03,7.001488e-02,2.721000e-03,7.150359e-02,2.741000e-03,7.299795e-02,2.761000e-03,7.449777e-02,2.781000e-03,7.600287e-02,2.801000e-03,7.751307e-02,2.821000e-03,7.902821e-02,2.841000e-03,8.054816e-02,2.861000e-03,8.207276e-02,2.881000e-03,8.360189e-02,2.901000e-03,8.513544e-02,2.921000e-03,8.667327e-02,2.941000e-03,8.821530e-02,2.961000e-03,8.976142e-02,2.981000e-03,9.131153e-02,3.001000e-03,9.286555e-02,3.021000e-03,9.442339e-02,3.041000e-03,9.598498e-02,3.061000e-03,9.755024e-02,3.081000e-03,9.911910e-02,3.101000e-03,1.006915e-01,3.121000e-03,1.022674e-01,3.141000e-03,1.038467e-01,3.161000e-03,1.054293e-01,3.181000e-03,1.070152e-01,3.201000e-03,1.086045e-01,3.221000e-03,1.101969e-01,3.241000e-03,1.117924e-01,3.261000e-03,1.133911e-01,3.281000e-03,1.149929e-01,3.301000e-03,1.165977e-01,3.321000e-03,1.182055e-01,3.341000e-03,1.198163e-01,3.361000e-03,1.214300e-01,3.381000e-03,1.230466e-01,3.401000e-03,1.246661e-01,3.421000e-03,1.262885e-01,3.441000e-03,1.279136e-01,3.461000e-03,1.295416e-01,3.481000e-03,1.311723e-01,3.501000e-03,1.328057e-01,3.521000e-03,1.344419e-01,3.541000e-03,1.360808e-01,3.561000e-03,1.377223e-01,3.581000e-03,1.393666e-01,3.601000e-03,1.410134e-01,3.621000e-03,1.426629e-01,3.641000e-03,1.443150e-01,3.661000e-03,1.459696e-01,3.681000e-03,1.476269e-01,3.701000e-03,1.492867e-01,3.721000e-03,1.509491e-01,3.741000e-03,1.526140e-01,3.761000e-03,1.542814e-01,3.781000e-03,1.559514e-01,3.801000e-03,1.576238e-01,3.821000e-03,1.592987e-01,3.841000e-03,1.609762e-01,3.861000e-03,1.626561e-01,3.881000e-03,1.643384e-01,3.901000e-03,1.660233e-01,3.921000e-03,1.677106e-01,3.941000e-03,1.694003e-01,3.961000e-03,1.710925e-01,3.981000e-03,1.727871e-01,4.001000e-03,1.744842e-01,4.021000e-03,1.761837e-01,4.041000e-03,1.778856e-01,4.061000e-03,1.795899e-01,4.081000e-03,1.812967e-01,4.101000e-03,1.830058e-01,4.121000e-03,1.847175e-01,4.141000e-03,1.864315e-01,4.161000e-03,1.881479e-01,4.181000e-03,1.898668e-01,4.201000e-03,1.915881e-01,4.221000e-03,1.933118e-01,4.241000e-03,1.950379e-01,4.261000e-03,1.967665e-01,4.281000e-03,1.984975e-01,4.301000e-03,2.002309e-01,4.321000e-03,2.019668e-01,4.341000e-03,2.037051e-01,4.361000e-03,2.054458e-01,4.381000e-03,2.071891e-01,4.401000e-03,2.089348e-01,4.421000e-03,2.106830e-01,4.441000e-03,2.124336e-01,4.461000e-03,2.141868e-01,4.481000e-03,2.159424e-01,4.501000e-03,2.177006e-01,4.521000e-03,2.194613e-01,4.541000e-03,2.212245e-01,4.561000e-03,2.229903e-01,4.581000e-03,2.247587e-01,4.601000e-03,2.265296e-01,4.621000e-03,2.283032e-01,4.641000e-03,2.300794e-01,4.661000e-03,2.318582e-01,4.681000e-03,2.336397e-01,4.701000e-03,2.354238e-01,4.721000e-03,2.372107e-01,4.741000e-03,2.390002e-01,4.761000e-03,2.407926e-01,4.781000e-03,2.425877e-01,4.801000e-03,2.443856e-01,4.821000e-03,2.461863e-01,4.841000e-03,2.479900e-01,4.861000e-03,2.497965e-01,4.881000e-03,2.516059e-01,4.901000e-03,2.534184e-01,4.921000e-03,2.552338e-01,4.941000e-03,2.570523e-01,4.961000e-03,2.588739e-01,4.981000e-03,2.606986e-01,5.001000e-03,2.625265e-01,5.021000e-03,2.643577e-01,5.041000e-03,2.661921e-01,5.061000e-03,2.680299e-01,5.081000e-03,2.698711e-01,5.101000e-03,2.717157e-01,5.121000e-03,2.735639e-01,5.141000e-03,2.754156e-01,5.161000e-03,2.772711e-01,5.181000e-03,2.791302e-01,5.201000e-03,2.809932e-01,5.221000e-03,2.828601e-01,5.241000e-03,2.847309e-01,5.261000e-03,2.866059e-01,5.281000e-03,2.884849e-01,5.301000e-03,2.903683e-01,5.321000e-03,2.922560e-01,5.341000e-03,2.941481e-01,5.361000e-03,2.960449e-01,5.381000e-03,2.979463e-01,5.401000e-03,2.998525e-01,5.421000e-03,3.017637e-01,5.441000e-03,3.036799e-01,5.461000e-03,3.056013e-01,5.481000e-03,3.075281e-01,5.501000e-03,3.094603e-01,5.521000e-03,3.113982e-01,5.541000e-03,3.133419e-01,5.561000e-03,3.152915e-01,5.581000e-03,3.172472e-01,5.601000e-03,3.192093e-01,5.621000e-03,3.211778e-01,5.641000e-03,3.231530e-01,5.661000e-03,3.251350e-01,5.681000e-03,3.271242e-01,5.701000e-03,3.291205e-01,5.721000e-03,3.311244e-01,5.741000e-03,3.331359e-01,5.761000e-03,3.351554e-01,5.781000e-03,3.371830e-01,5.801000e-03,3.392190e-01,5.821000e-03,3.412636e-01,5.841000e-03,3.433172e-01,5.861000e-03,3.453799e-01,5.881000e-03,3.474520e-01,5.901000e-03,3.495338e-01,5.921000e-03,3.516256e-01,5.941000e-03,3.537277e-01,5.961000e-03,3.558404e-01,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw gnd 1.000000e+06
Gnw  gnd vout nw gnd {gnw}      $ white floor
Rn1  nk1 gnd 1.000000e+06
Cn1  nk1 gnd 8.670384e-09        $ corner 18.36 Hz
Gn1  gnd vout nk1 gnd {gn1}
Rn2  nk2 gnd 1.000000e+06
Cn2  nk2 gnd 6.212453e-10        $ corner 256.2 Hz
Gn2  gnd vout nk2 gnd {gn2}
Rn3  nk3 gnd 1.000000e+06
Cn3  nk3 gnd 4.371182e-11        $ corner 3641 Hz
Gn3  gnd vout nk3 gnd {gn3}
Rn4  nk4 gnd 1.000000e+06
Cn4  nk4 gnd 4.598262e-13        $ corner 3.461e+05 Hz
Gn4  gnd vout nk4 gnd {gn4}
Rn5  nk5 gnd 1.000000e+06
Cn5  nk5 gnd 2.299737e-13        $ corner 6.921e+05 Hz
Gn5  gnd vout nk5 gnd {gn5}
Rn6  nk6 gnd 1.000000e+06
Cn6  nk6 gnd 1.926450e-15        $ corner 8.262e+07 Hz
Gn6  gnd vout nk6 gnd {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-vdd), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf gnd DC {vdd}              $ supply DC reference (settable; default = fit vin)
Gd   gnd vout vin vrf {G0}         $ feedthrough  G0*(vin-vdd)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to vdd
Gs1  gnd vout np1 vrf {G1}         $ G1*(LP1(vin)-vdd)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  gnd vout np2 vrf {G2}         $ G2*(LP2(vin)-vdd)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  gnd vout np3 vrf {G3}         $ G3*(LP3(vin)-vdd)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 gnd vout ncs2 vrf {pcb0}      $ inject b0*x
Gqb1 gnd vout vin  ncs1 {gqb1}     $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

